US06245790B1
A mixture of 2-[hydroxy-(2-methoxyphenyl)methyl]-cyclohexanone (3.71 g), 10% Pd/C (wet) (1.0 g), and 20% Pd(OH)2/C (180 mg) in MeOH-EtOAc (2:1, 150 ml) was stirred under hydrogen atmosphere at room temperature for 28 hours. The catalyst was removed by filtration and the filtrate was evaporated. The residue was purified by silica gel column chromatography (hexane-EtOAc 7:1) to give 2-(2-methoxybenzyl)cyclohexanone (2.65 g) as an oil.

reactant | 2-[hydroxy-(2-methoxyphenyl)methyl]-cyclohexanone | 3.71 g | OC(C1C(CCCC1)=O)C1=C(C=CC=C1)OC | C14H18O3
solvent | MeOH EtOAc | 150 ml | CO.CCOC(=O)C
catalyst | Pd/C | 1.0 g | [Pd] | Pd
catalyst | Pd(OH)2/C | 180 mg | [OH-].[OH-].[Pd+2]
product | 2-(2-methoxybenzyl)cyclohexanone | 2.65 g | COC1=C(CC2C(CCCC2)=O)C=CC=C1 | C14H18O2
